US06642332B1
6-Methyl-2,3-diphenylquinoxaline (5.0 g, 16.9 mmol) was dissolved in dry, oxygen free benzene (50 ml). The solution was brought to reflux and a mixture of NBS (3.00 g, 16.9 mmol) and AIBN (0.1 g) added as a solid over a period of 30 minutes. The solution was then refluxed for 2 hrs, cooled, washed with water (3×100 ml), dried over MgSO4 and evaporated to leave a pale brown solid. This was recrystallised from hexane/toluene (1:1, 80 ml) to yield 6-bromomethyl-2,3-diphenylquinoxaline, 3.5 g, 56%. Traces of 6-methyl-2,3-diphenylquinoxaline were shown to be present by 1H NMR. A small sample was recrystallised from acetone for characterisation (m.pt. 146-148° C.). Found: C,; H,; N, %; C21H15N2Br requires C, 67.21; H, 4.03; N, 7.47%. 1H NMR (CDCl3 , 300 MHz) δ 8.16 (d, J 8.7 Hz, 1H, Hs of quinoxaline), 8.16 (d, J 2.2 Hz, 1H, Hs of quinoxaline), 7.78 (d of d, J 8.7 Hz, J 2.2 Hz, 1H, Hs of quinoxaline), 7.48-7.56 (m, 4H, phenyl ring), 7.30-7.40 (m, 6H, phenyl ring), 4.71 (s, 2H, CH2Br).

reactant | 6-Methyl-2,3-diphenylquinoxaline | 16.9 mmol, 5.0 g | CC=1C=C2N=C(C(=NC2=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | NBS | 16.9 mmol, 3.00 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.1 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 6-bromomethyl-2,3-diphenylquinoxaline | BrCC=1C=C2N=C(C(=NC2=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H15BrN2
